US07691850B2
Preparation of 5-methyl-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde
To a solution of N,N,N′-trimethylethylenediamine (3.3 g, 32.3 mmol) in THF (100 mL) at −15° C. was dropwise added n-BuLi (19.2 mL, 30.5 mmol, 1.6 M in THF). After stirring at −15° C. for 15 minutes, a solution of solution of 1,4-benzodioxane-6-aldehyde (5.0 g, 30.5 mmol) in THF (10 mL). After 20 minutes, another batch of n-BuLi (5 mL, 3.1 mmol, 1.6 M in THF) was added and stirred for 3 h. The resulting solution was cooled down to −72° C. and the mixture was treated with MeI (25.9 g, 182.5 mmol) slowly. After stirring at −72° C. for 3 h, the mixture was diluted with HCl solution (1M in water). The aqueous layer was extracted several times with diethyl ether. The organic fractions were combined, concentrated and purified with column chromatography (silica, 5-40% ethyl acetate in hexane) to provide the title compound as an off-white compound (1.0 g, 18%): %): MS (ES) m/z 179 (M+H)+.

reactant | N,N,N′-trimethylethylenediamine | 32.3 mmol, 3.3 g | CN(CCNC)C | C5H14N2
reactant | n-BuLi | 30.5 mmol, 1.6 M, 19.2 mL | [Li]CCCC
reactant | 1,4-benzodioxane-6-aldehyde | 30.5 mmol, 5.0 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | n-BuLi | 3.1 mmol, 1.6 M, 5 mL | [Li]CCCC
reactant | MeI | 182.5 mmol, 25.9 g | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 1M | Cl | ClH
product | 5-methyl-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | CC1=C(C=CC=2OCCOC21)C=O | C10H10O3
